US07816557B2
Racemic 3-(4-{1-[4-(4-tert-Butyl-benzyloxy)-phenoxy]-heptyl}-benzoylamino)-propionic acid
The 3-(4-{1-[4-(4-tert-Butyl-benzyloxy)-phenoxy]-heptyl}-benzoylamino)-propionic acid methyl ester is dissolved in the THF (1.0 mL) and 5N NaOH (1.0 mL) is added. The mixture is heated to reflux under nitrogen and monitored by HPLC. Upon complete conversion, the reaction is neutralized with 5N HCl (1.0 mL), diluted with diethyl ether and water. The two phases are separated and the organic layer is washed, dried, and concentrated to provide the title compound (80 mg, 0.15 mmol). MS (ES): 544.2 [M−H]−.

reactant | 3-(4-{1-[4-(4-tert-Butyl-benzyloxy)-phenoxy]-heptyl}-benzoylamino)-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(C)(C)C)=O)=O | C35H45NO5
reactant | HCl | 5N, 1.0 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | NaOH | 5N, 1.0 mL | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | Racemic 3-(4-{1-[4-(4-tert-Butyl-benzyloxy)-phenoxy]-heptyl}-benzoylamino)-propionic acid | 0.15 mmol, 80 mg | C(C)(C)(C)C1=CC=C(COC2=CC=C(OC(CCCCCC)C3=CC=C(C(=O)NCCC(=O)O)C=C3)C=C2)C=C1 | C34H43NO5
